US08084448B2
D. 5-[2-Benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (375 mg, 0.679 mmol) in DMF (5 mL) is added CsF (361 mg, 2.37 mmol) and the mixture is stirred at 65° C. for 3 h. The mixture is diluted with EtOAc and water then is acidified with 1N HCl. The organic phase is washed with 1N HCl, water and brine. The organic phase is dried over sodium sulfate and the solvent is removed under reduced pressure to give the title compound as a foam.

reactant | 5-[2-benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.679 mmol, 375 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC=C1)COC)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C29H36N2O5SSi
reactant | CsF | 2.37 mmol, 361 mg | [F-].[Cs+]
reactant | HCl | 1N | Cl | ClH
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 5-[2-Benzyloxy-4-(2-methoxymethylbenzyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CC1=C(C=CC=C1)COC)N1CC(NS1(=O)=O)=O | C24H24N2O5S
